US07795249B2
To a suspension of 2-{3-(5-{[(4-methoxybenzyl)oxy]methyl}pyridin-3-yl)-1-[(5-pyridin-2-yl-2-thienyl)carbonyl]-4,5-dihydro-1H-pyrazol-5-yl}phenol (0.070 g, 0.12 mmol) in MeOH (6 mL) was added HCl. The reaction mixture was allowed to stir at 65° C. for 6 h and then at rt overnight. Reaction was incomplete, so the mixture was allowed to stir at 65° C. for an additional 10 h and then cooled to rt and concentrated. The residue was purified by column chromatography to give 2-{3-[5-(hydroxymethyl)pyridin-3-yl]-1-[(5-pyridin-2-yl-2-thienyl)carbonyl]-4,5-dihydro-1H-pyrazol-5-yl}phenol (I-273). LCMS: (FA) ES+ 457.4, ES-455.5.

reactant | 2-{3-(5-{[(4-methoxybenzyl)oxy]methyl}pyridin-3-yl)-1-[(5-pyridin-2-yl-2-thienyl)carbonyl]-4,5-dihydro-1H-pyrazol-5-yl}phenol | 0.12 mmol, 0.070 g | COC1=CC=C(COCC=2C=C(C=NC2)C2=NN(C(C2)C2=C(C=CC=C2)O)C(=O)C=2SC(=CC2)C2=NC=CC=C2)C=C1 | C33H28N4O4S
reactant | HCl | Cl | ClH
solvent | MeOH | 6 mL | CO | CH4O
product | 2-{3-[5-(hydroxymethyl)pyridin-3-yl]-1-[(5-pyridin-2-yl-2-thienyl)carbonyl]-4,5-dihydro-1H-pyrazol-5-yl}phenol | OCC=1C=C(C=NC1)C1=NN(C(C1)C1=C(C=CC=C1)O)C(=O)C=1SC(=CC1)C1=NC=CC=C1 | C25H20N4O3S
